US08222416B2
To a solution of (1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-(4-methylsulfanyl-phenyl)-methanol (7.0 g, 17.1 mmol) in dichloromethane (600 ml) was added Dess-Martin periodinane (21.8 g, 51.3 mmol) at 25° C. The reaction mixture was stirred at 25° C. for 1 h and then quenched with a saturated aqueous sodium bicarbonate solution (100 mL). The mixture was extracted with ethyl acetate (500 mL), washed with a saturated aqueous sodium bicarbonate solution (3×80 mL), brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by flash column chromatography (silica gel from QingDao, 200-300 mesh, 30% ethyl acetate/hexanes) afforded (1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-(4-methylsulfanyl-phenyl)-methanone (6.73 g, 97%) as a white solid: LC/MS m/e calcd for C21H16N2O3S2 [M+H]+ 409.50, observed 409.2.

reactant | (1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-(4-methylsulfanyl-phenyl)-methanol | 17.1 mmol, 7.0 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(O)C2=CC=C(C=C2)SC | C21H18N2O3S2
reactant | Dess-Martin periodinane | 51.3 mmol, 21.8 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
product | (1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-(4-methylsulfanyl-phenyl)-methanone | 6.73 g, 97% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(=O)C2=CC=C(C=C2)SC | C21H16N2O3S2
